US07259266B2
Step 1. Preparation of ethyl 8-chloro-6-(cyclohexyloxv)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a solution of ethyl 8-chloro-6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 17a, Step 3 (1.00 g, 3.10 mmole) in anhydrous DMF (10.0 mL) was added KI (51.5 mg, (0.310 mmole), K2CO3 (1.29 g, 9.30 mmole) and cyclohexyl iodide (1.20 mL, 9.30 mmole). The suspension was heated at 50° C. for 17 h and then the temperature was slowly raised to 80° C. and stirred overnight. Additional cyclohexyl iodide (1.20 mL, 9.30 mmole) was added and the temperature was maintained at 100-120° C. for 3 days. The mixture was then cooled and poured into H2O (200 mL), which was saturated with solid NaCl. Following extraction with EtOAc (2×100 mL), the combined extracts were washed with brine (3×100 mL) and concentrated in vacuo. Purification by silica chromatography (6:1 hexanes:EtOAc) gave 45 mg (3.5% yield) of the product: EIHRMS m/z 404.0999 (M+, C19H20ClF3O4, Calc'd 404.1002).

reactant | ethyl 8-chloro-6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)O | C13H10ClF3O4
reactant | K2CO3 | 0.310 mmole, 51.5 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclohexyl iodide | 9.30 mmole, 1.20 mL | C1(CCCCC1)I | C6H11I
reactant | cyclohexyl iodide | 9.30 mmole, 1.20 mL | C1(CCCCC1)I | C6H11I
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | 200 mL | O | H2O
product | ethyl 8-chloro-6-(cyclohexyloxv)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 45 mg, 3.5% yield | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC1CCCCC1 | C19H20ClF3O4
